US05948911
Following the procedure of Example 1, the reaction of 4-fluorobenzylamine with 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)Cl | C7HCl2F3N2S
product | 2-chloro-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC=C(C=C2)F | C14H8ClF4N3S
